US09259470B2
Triethylamine (“TEA”) (0.741 mL, 5.31 mmol; d. 0.726) was added to a cold (0° C.) solution of 2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethanol (1.08 g, 3.54 mmol) in DCM (10 mL), followed by addition of methanesulfonyl chloride (0.329 mL, 4.25 mmol). After 1 hour, the reaction mixture was diluted with DCM, and the organic layer was washed with saturated aqueous NaHCO3, dried, filtered and concentrated to afford 2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl methanesulfonate (1.30 g, 3.39 mmol, 95.8% yield). 1H NMR (400 MHz, CDCl3) δ 7.33 (m, 1H), 7.18 (m, 1H), 7.10 (m, 1H), 6.63 (m, 1H), 5.74 (d, 1H), 5.32 (d, 1H).

reactant | Triethylamine | 5.31 mmol, 0.741 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethanol | 3.54 mmol, 1.08 g | [Si](C)(C)(C(C)(C)C)OCC(O)C1=CC(=C(C=C1)Cl)F | C14H22ClFO2Si
reactant | methanesulfonyl chloride | 4.25 mmol, 0.329 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl methanesulfonate | 3.39 mmol, 1.30 g, 95.8% yield | CS(=O)(=O)OC(CO[Si](C)(C)C(C)(C)C)C1=CC(=C(C=C1)Cl)F | C15H24ClFO4SSi
